US05886239
In an efficient fume hood, liquid hydrogen fluoride (85.1 g, 4.25 mol) was transferred into a 1 liter Teflon® reaction vessel chilled in a dry ice/acetone cold bath. The vessel was fitted with a dry ice condenser, thermocouple, and addition funnel and a portion of chloromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether (80.1 g) was added. A solution of diisopropylethylamine (249.0 g, 1.93 mol) in chloromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether (271.0 g) was slowly added while maintaining the internal temperature in the range of -5°to 10° C. After completing the addition, the mixture was transferred to a 2 liter glass boiling flask and the Teflon® vessel was rinsed out with a solution of diisopropylethylamine (307.0 g, 2.38 mol) in chloromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether (180.0 g) which was also transferred to the glass flask. An additional 850 g of chloromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether was added to the reaction flask to bring the total to 1381.1 g (6.38 mol). This mixture was heated at reflux for 16 hours. After cooling to ambient temperature, water (700 mL) was added to the reaction mixture and, after vigorous shaking, the resultant layers were separated. The lower organic layer was further washed with 700 mL of dilute hydrochloric acid (35 mL of 12 N HCl in 665 mL of water). The organic layer (1259.7 g) was analyzed by NMR and gas chromatography and was shown to consist of 63.6% fluoromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether (sevoflurane) and 35.4% recovered chloromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether, giving a 95% yield of sevoflurane based on starting material consumed.

reactant | hydrogen fluoride | 4.25 mol, 85.1 g | F | FH
reactant | diisopropylethylamine | 1.93 mol, 249.0 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 2.38 mol, 307.0 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 700 mL | O | H2O
reactant | chloromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether | 271.0 g | FC(C(C(F)(F)F)OCCl)(F)F | C4H3ClF6O
reactant | chloromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether | 180.0 g | FC(C(C(F)(F)F)OCCl)(F)F | C4H3ClF6O
reactant | chloromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether | 850 g | FC(C(C(F)(F)F)OCCl)(F)F | C4H3ClF6O
reactant | chloromethyl 2,2,2-trifluoro-1-(trifluoromethyl)ethyl ether | 80.1 g | FC(C(C(F)(F)F)OCCl)(F)F | C4H3ClF6O
product | sevoflurane | 95% yield | C(OC(C(F)(F)F)C(F)(F)F)F | C4H3F7O
